US06171866B2
2.2.1. 2,5-Diethoxybenzaldehyde (N3)
A suspension of 9.66 g (70 mmol) 2,5-dihydroxybenzaldehyde N2, 32.75 g (210 mmol) iodoethane, 24.19 g (175 mmol) K2CO3 in 350 ml acetone was heated to reflux for 18 hours under nitrogen. The solvent was evaporated and the residue was dissolved in 300 ml CHCl3 and 300 ml water. The organic phase was washed with 2×300 ml 2.5% Na2CO3 and 300 ml saturated NaCl and dried over Na2SO4. The solvent was evaporated and the residue (13.5 g) purified with a silica gel column (silica gel 100, CHCl3/cyclohexane: 1/1, v/v), affording 8.61 g light yellow oil, which crystallized after cooling to room temperature (yield. 63%).

reactant | 2,5-dihydroxybenzaldehyde N2 | 70 mmol, 9.66 g | OC1=C(C=O)C=C(C=C1)O.N#N
reactant | iodoethane | 210 mmol, 32.75 g | ICC | C2H5I
reactant | K2CO3 | 175 mmol, 24.19 g | C(=O)([O-])[O-].[K+].[K+]
reactant | acetone | 350 ml | CC(=O)C | C3H6O
product | 2,5-Diethoxybenzaldehyde | C(C)OC1=C(C=O)C=C(C=C1)OCC | C11H14O3
